US06797718B2
The general method described in Example 112 was used to hydrogenate 2-ethoxymethyl-6,7-dimethyl-1-{2-[(3-phenylprop-2-ynyl)oxy]ethyl}-1H-imidazo[4,5-c]pyridin-4-amine (1.17 g, 3.09 mmol), prepared as described in Example 122. The reaction was complete after 18 hours. The crude product, isolated as an oil, was dissolved with diethyl ether (20 mL) and treated with a 1 M solution of hydrochloric acid in diethyl ether. The resulting salt was isolated by filtration, dried under reduced pressure, and recrystallized from ethyl acetate. The crystals, obtained in two crops, were dried for three hours under high vacuum at 60° C. to provide 0.777 g of 2-ethoxymethyl-6,7-dimethyl-1-[2-(3-phenylpropoxy)ethyl]-1H-imidazo[4,5-c]pyridin-4-amine hydrochloride as a white powder, mp 128-130° C.

reactant | 2-ethoxymethyl-6,7-dimethyl-1-{2-[(3-phenylprop-2-ynyl)oxy]ethyl}-1H-imidazo[4,5-c]pyridin-4-amine | 3.09 mmol, 1.17 g | C(C)OCC=1N(C2=C(C(=NC(=C2C)C)N)N1)CCOCC#CC1=CC=CC=C1 | C22H26N4O2
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 2-ethoxymethyl-6,7-dimethyl-1-[2-(3-phenylpropoxy)ethyl]-1H-imidazo[4,5-c]pyridin-4-amine hydrochloride | 0.777 g | Cl.C(C)OCC=1N(C2=C(C(=NC(=C2C)C)N)N1)CCOCCCC1=CC=CC=C1 | InChI=1S/C22H30N4O2.ClH/c1-4-27-15-19-25-20-21(16(2)17(3)24-22(20)23)26(19)12-14-28-13-8-11-18-9-6-5-7-10-18;/h5-7,9-10H,4,8,11-15H2,1-3H3,(H2,23,24);1H
